US08629271B2
b) 7-Bromo-2,2-dimethylheptan-1-ol
To a solution of ethyl 7-bromo-2,2-dimethylheptanoate (example 102, step a) (1.5 g) in dry diethyl ether (50 mL) at 0° C. under N2 was added diisobutylaluminium hydride (1M in toluene, 12.5 mL) dropwise. The reaction mixture was stirred at 0° C. for 1 h then quenched by addition of saturated potassium sodium tartrate (150 mL). The mixture was stirred for 1 h then extracted with ethyl acetate (×3). The combined organics were washed with brine and dried over sodium sulphate, filtered and evaporated in vacuo. Purification was by silica gel chromatography eluting with 0-25% ethyl acetate in cyclohexane to give the subtitled compound as a colourless liquid. Yield 1.16 g.

reactant | ethyl 7-bromo-2,2-dimethylheptanoate | BrCCCCCC(C(=O)OCC)(C)C | C11H21BrO2
reactant | diisobutylaluminium hydride | 1M, 12.5 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 7-Bromo-2,2-dimethylheptan-1-ol | BrCCCCCC(CO)(C)C | C9H19BrO
